US04175131
1-Allyl-3-butyl-3-(4-methyl-2-oxazolyl)urea
A solution of 2-butylamino-4-methyloxazole (12.0 g, 0.078 mol) and allyl isocyanate (6.46 g, 0.078 mol) in dry benzene was heated under reflux for 4 hours, and worked up as described in Example 3. The product was further purified by chromatography on a silica-gel column, eluting with a 1:1 mixture of benzene and ethyl acetate.

reactant | 2-butylamino-4-methyloxazole | 0.078 mol, 12.0 g | C(CCC)NC=1OC=C(N1)C | C8H14N2O
reactant | allyl isocyanate | 0.078 mol, 6.46 g | C(C=C)N=C=O | C4H5NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Allyl-3-butyl-3-(4-methyl-2-oxazolyl)urea | C(C=C)NC(=O)N(C=1OC=C(N1)C)CCCC | C12H19N3O2
